US07091361B2
2-[(4-Dodecyloxyphenyl)sulfonyl]butanoyl Chloride, (5)
2-[(4-Dodecyloxyphenyl)sulfonyl]butanoic acid (19.5 g, 47.33 mMole) was suspended in ethyl acetate (150 mL) to which was added several drops of dimethylformamide and thionyl chloride (14.4 mL, 119 mMole). The mixture was heated at 70° C. for 1.5 hours, cooled, concentrated under reduced pressure, co-evaporated with ethyl acetate (2×100 mL) and the oil so obtained used as such in the next step of the reaction sequence.

reactant | 2-[(4-Dodecyloxyphenyl)sulfonyl]butanoic acid | 47.33 mMole, 19.5 g | C(CCCCCCCCCCC)OC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)CC | C22H36O5S
reactant | thionyl chloride | 119 mMole, 14.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | dimethylformamide | several drops | CN(C=O)C | C3H7NO
product | 2-[(4-Dodecyloxyphenyl)sulfonyl]butanoyl Chloride | C(CCCCCCCCCCC)OC1=CC=C(C=C1)S(=O)(=O)C(C(=O)Cl)CC | C22H35ClO4S
